US06030977
A solution of camphorsulfonic acid (1.25 g) in ethanol (10 ml) was added slowly to a solution of pyrimethanil (1 g) in toluene (20 ml) and the mixture allowed to stand for 30 minutes at room temperature. The mixture was evaporated under reduced pressure and the residue recrystallised from a mixture of diisopropyl ether and ethyl acetate to give pyrimethanil camphorsulfonate, m.p. 1 66-7° C. (compound 2)

reactant | camphorsulfonic acid | 1.25 g | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
reactant | pyrimethanil | 1 g | CC=1C=C(N=C(N1)NC=2C=CC=CC2)C | C12H13N3
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | pyrimethanil camphorsulfonate | CC=1C=C(N=C(N1)NC=2C=CC=CC2)C.C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)[O-] | InChI=1S/C12H13N3.C10H16O4S/c1-9-8-10(2)14-12(13-9)15-11-6-4-3-5-7-11;1-9(2)7-3-4-10(9,8(11)5-7)6-15(12,13)14/h3-8H,1-2H3,(H,13,14,15);7H,3-6H2,1-2H3,(H,12,13,14)/p-1
